US08252935B2
a) 4-Methyl-2-(5-pyridin-2-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester
To a solution of 4-Methyl-2-(5-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester, compound 1g (105 mg, 0.205 mmol) in dimethoxyethane (1.4 mL), was added 2-pyridine boronic acid pinacol ester adduct (169 mg, 0.41 mmol), and 2M Na2CO3 (0.31 ml, 0.614 mmol). The mixture was degassed, tetrakis(triphenylphosphine)palladium (0) (24.0 mg, 0.02 mmol) was added and the mixture was degassed again, and then heated to 80° C. overnight. The reaction was cooled to room temperature, diluted with EtOAc and washed with NaHCO3 and brine. Purification by column chromatography gave the title compound (30 mg, 33%). Calcd for C26H26F3NO2 (M+H) 441.49, Found 442.2.

reactant | 4-Methyl-2-(5-trifluoromethanesulfonyloxy-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)OS(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C22H22F6O5S
reactant | 2-pyridine boronic acid pinacol ester | 0.41 mmol, 169 mg | N1=C(C=CC=C1)B1OC(C)(C)C(C)(C)O1 | C11H16BNO2
reactant | Na2CO3 | 0.614 mmol, 2M, 0.31 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethoxyethane | 1.4 mL | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.02 mmol, 24.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Methyl-2-(5-pyridin-2-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | 30 mg, 33% | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1=NC=CC=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H26F3NO2
